US06028195
a) Phenyl N-(2-methoxyquinolin-3-yl)carbamate
3-Amino-2-methoxyquinoline(4 g, 23 mmol) and phenyl chloroformate(4.04 g, 25 mmol) were dissolved in dichloromethane and stirred at room temperature for 2 hours. The above mixture was concentrated under the reduced pressure to remove dichloromethane and purified by column chromatography(hexane:ether=8:1) to obtain the titled compound.

reactant | 3-Amino-2-methoxyquinoline | 23 mmol, 4 g | NC=1C(=NC2=CC=CC=C2C1)OC | C10H10N2O
reactant | phenyl chloroformate | 25 mmol, 4.04 g | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
solvent | dichloromethane | ClCCl | CH2Cl2
product | Phenyl N-(2-methoxyquinolin-3-yl)carbamate | yield: 75% | COC1=NC2=CC=CC=C2C=C1NC(OC1=CC=CC=C1)=O | C17H14N2O3
